US06380288B1
Synthesis of 3-hydroxy-N′-(1-methylpropylidene)-2-naphthohydrazide
A four neck flask (3 liters) equipped with a thermometer, a reflux condenser and a stirrer was charged with 121.2 g (0.6 mol) of 3-hydroxy-2-naphthohydrazide and 2 liters of methyl ethyl ketone and then heated under refluxing for 5 hours. The reaction liquid was cooled down to 20° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby the intended compound (slightly yellow crystal) was obtained.

reactant | 3-hydroxy-2-naphthohydrazide | 0.6 mol, 121.2 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
solvent | methyl ethyl ketone | 2 liters | C(C)C(=O)C | C4H8O
product | 3-hydroxy-N′-(1-methylpropylidene)-2-naphthohydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN=C(CC)C | C15H16N2O2
